Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Codeine / gabapentin / morphine / Amoxicillin / metronidazole / 
propoxyphene / rofecoxib / Macrobid / furosemide / Amitiza / 
Sulfa (Sulfonamide Antibiotics) / Tylenol / Hydromorphone / 
Toradol
 
Attending: ___
 
Chief Complaint:
For admission: elective gynecologic surgery for urinary 
retention
For MICU transfer: Anaphylaxis
 
Major Surgical or Invasive Procedure:
Stage 2 interstim w/ posterior colporrhaphy for rectocele + 
enterocele ___
 
History of Present Illness:
History of Present Illness:  Ms. ___ is a ___ w/ Hx 
of cervical CA s/p radical hysterectomy c/b chronic ___ 
lymphedema and urinary retention, for which she frequently 
self-caths, Asthma, GERD, IBS, anxiety/depression, fibromyalgia 
and other issues who was admitted for an elective gynecologic 
surgery (stage 2 interstim and posterior colporrhaphy w/ graft) 
for urinary retention and rectocele + enterocele.  
 
Past Medical History:
Cervical CA s/p radical hysterectomy c/b chronic ___ lymphedema
ADHD
Anxiety/Depression
Asthma
Insomnia
GERD
Raynaud's
IBS
Fibromyalgia  

 
Social History:
___
Family History:
+Hx of atopy in son, daughter; both w/ frequent allergy rxns 
requiring epi pens
 
Physical Exam:
MICU ADMISSION EXAM:
--------------------

Vitals: T: 98.7 BP: 113/83 P: 79 R: 18 O2: 97% ___  
___: Well appearing female in no acute distress, slightly 
muffled voice, somewhat flushed skin
HEENT: Moist mucous membranes, mild lip swelling, tongue not 
grossly edematous, no angioedema
Neck: JVP non elevated
CV: Regular rate and rhythm, normal S1 S2, no murmurs
Lungs: Clear to auscultation bilaterally, no 
wheezes/rales/rhonchi
Abdomen: Soft, normoactive bowel sounds, nontender, 
nondistended, no rebound or guarding
GU: Foley in place
Ext:  Warm, trace ___ edema, peripheral pulses 2+ ___
Neuro: alert and oriented to person, hospital, and date

MICU DISCHARGE EXAM:
--------------------

Vitals: T: 97.5 BP: 107/62 P: 84 R: 16 O2: 99% ___  
___: Well appearing female in no acute distress, normal 
voice, somewhat flushed skin, most prominent in malar 
distribution on face
HEENT: Moist mucous membranes, appearance of face unchanged from 
yesterday, tongue not edematous, no angioedema
Neck: JVP non elevated
CV: Regular rate and rhythm, normal S1 S2, no murmurs
Lungs: Clear to auscultation bilaterally, no 
wheezes/rales/rhonchi
Abdomen: Soft, normoactive bowel sounds, nontender, 
nondistended, no rebound or guarding
GU: Foley in place
Ext:  Warm, trace ___ edema, peripheral pulses 2+ ___
Neuro: alert and oriented to person, hospital, and date

GYN Floor discharge exam:
VSS, AF
Gen: NAD A&O x 3
Resp: no visible respiratory distress, speaking in full 
sentences
Abd: soft, NT ND
Ext: moving all 4 extremities

 
Pertinent Results:
MICU ADMISSION LABS:

___ 06:02PM BLOOD WBC-17.0* RBC-4.33 Hgb-13.9 Hct-39.1 
MCV-90 MCH-32.2* MCHC-35.6* RDW-11.8 Plt ___
___ 06:02PM BLOOD Neuts-94.5* Lymphs-4.3* Monos-0.7* 
Eos-0.1 Baso-0.3
___ 06:02PM BLOOD ___ PTT-31.8 ___
___ 06:02PM BLOOD Glucose-146* UreaN-16 Creat-0.8 Na-140 
K-3.9 Cl-106 HCO3-24 AnGap-14
___ 06:02PM BLOOD Calcium-9.1 Phos-3.1 Mg-1.5*
___ 06:02PM BLOOD TRYPTASE-PND

MICU DISCHARGE LABS:

___ 02:59AM BLOOD WBC-20.1* RBC-3.98* Hgb-12.6 Hct-36.3 
MCV-91 MCH-31.6 MCHC-34.7 RDW-11.9 Plt ___
___ 02:59AM BLOOD Plt ___
___ 02:59AM BLOOD Glucose-152* UreaN-18 Creat-0.8 Na-138 
K-3.5 Cl-102 HCO3-24 AnGap-16
___ 02:59AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.8*

PERTINENT LABS:

___ 06:02PM BLOOD WBC-17.0* RBC-4.33 Hgb-13.9 Hct-39.1 
MCV-90 MCH-32.2* MCHC-35.6* RDW-11.8 Plt ___
___ 06:02PM BLOOD Neuts-94.5* Lymphs-4.3* Monos-0.7* 
Eos-0.1 Baso-0.3
___ 06:02PM BLOOD ___ PTT-31.8 ___
___ 06:02PM BLOOD Glucose-146* UreaN-16 Creat-0.8 Na-140 
K-3.9 Cl-106 HCO3-24 AnGap-14
___ 06:02PM BLOOD Calcium-9.1 Phos-3.1 Mg-1.5*
___ 06:02PM BLOOD TRYPTASE-PND

PERTINENT IMAGING:

None

PERTINENT MICRO:

None
 
Brief Hospital Course:
Ms. ___ is a ___ y/o F w/ Hx of cervical CA s/p radical 
hysterectomy c/b chronic ___ lymphedema and urinary retention, 
Asthma, GERD, anxiety/depression, fibromyalgia. Please refer to 
the operative report for full details.

Her post-operative course was uncomplicated. Immediately 
post-op, her pain was controlled with IV dilaudid and toradol. 
However, in the PACU, the patient started feeling itchy.  Once 
the pt returned to the floor, she noted sensation of tongue / 
lip swelling, difficulty swallowing secretions, and a change in 
her voice.  No SOB, no flushing, no stridor or wheeze.  She was 
administered an Epi-pen, Solumedrol 100 mg IV, Famotidine 20 mg 
IV, and Hydroxyzine 25 mg IM.  She was transferred to the MICU 
for closer monitoring. 

The patient has numerous drug allergies and was administered the 
following medications intra-operatively: Midazolam, Rocuronium, 
Fentanyl, Dexamethasone, Hydromorphone, Ondansetron, Lidocaine, 
Propofol, Cefazolin, Glycopyrrolate, Phenylephrine, and 
Ketorolac.

In the MICU, initial VS were HR 87, BP 100/63, RR 17, S 100% 
___.  The patient was in NAD, without wheeze or poor air 
movement on exam, but complained of persistent voice change and 
difficulty swallowing, for which she required 2 more epi pens.  
Has remained hemodynamically stable and without respiratory 
compromise.

ACTIVE ISSUES:

*) Post operative care
Her pain was controlled immediately post-op with IV dilaudid and 
toradol. This was transitioned to po oxycodone as it was 
difficult to determine what was causing an allergic reaction in 
Ms. ___.

Her vaginal packing was removed on POD 1, on post-operative day 
2, her urine output was adequate and her Foley was removed. The 
patient was able to void spontaneously, but did require 
self-catheterization ___ times a day based on a sensation of 
bladder fullness. 

*) Anaphylaxis: 
In the PACU the patient awoke and started feeling pruritis. Once 
she arrived to the floor, the patient noted difficulty talking, 
subjectively swollen lips/tongue, and vocal changes. No SOB, no 
flushing, no stridor or wheeze. A trigger was called for 
anaphyllaxis and she recieved an Epi-pen, Solumedrol 100 mg IV, 
Famotidine 20 mg IV, and Hydroxyzine 25 mg IM.  She was 
transferred to the MICU for closer monitoring. 

In the MICU, initial VS were HR 87, BP 100/63, RR 17, S 100% 
___.  The patient was in NAD, without wheeze or poor air 
movement on exam, but complained of persistent voice change and 
difficulty swallowing, for which she required 2 more epi pens.  
Has remained hemodynamically stable and without respiratory 
compromise. 

Of note, patient was lying comfortable in bed around 2200 and 
continuing to inquire about more Epi-pens vs epinephrine gtt 
despite comfortable respiration, vocalization, non-edematous 
oral structures. She also perseverated about her Ativan and 
Ambien, as well as her propranolol for essential tremor despite 
explanation that beta blockers can worsen bronchoconstriction 
and respiratory compromise in anaphylaxis.

On the day she was called out to the floor, the pt complained of 
persistent facial flushing.  She was afebrile, hemodynamically 
stable, and without respiratory compromise or systemic symptoms. 
 Symptomatic care with hydroxyzine and eucerin lotion was 
provided.

Upon step down to the floor, the patient again reported to 
nursing that she felt throat constriction. Epinephrine and 
solumedrol were given and the patient felt relief. Allergy was 
consulted, and they asked us to stop all new medications given 
to her while at the hospital, and to report all of them as 
allergies. In addition, we sent out a tryptase level, as well as 
coordinated outpatient follow-up with them. 

#Chronic ___ edema: Continue home Metolazone, spironolactone, 
potassium repletion as not hypotensive.  We monitored her K 
during her stay, which was WNL.

#Asthma: Home Albuterol use ___ per week, did not require in 
the MICU. 

#GERD: Nexium (was initially held on admission, but per pt 
request was given on ___ prior to advancing diet)

#ADHD: On Adderall, held on admission

# Anxiety/depression/fibromyalgia: lorazepam 

# Insomnia: zolpidem

By post-operative day 1, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was the  discharged home in stable condition 
with outpatient follow-up scheduled. She was also scheduled to 
have an appointment with Allergy and Immunology.

 
Medications on Admission:
Albuterol sulfate 2.5 mg/3 mL (0.083 %) Neb TID PRN
Albuterol ProAir HFA 90 mcg INH 1 puff BID PRN 
Cephalexin 250 mg Q6H
Adderall XR 15 mg BID
Ergocalciferol (vitamin D2) 50,000 U Q week
Nexium 40 mg ___ QAM
Vivelle 0.075 mg/24 hr Transderm Patch 2x / week 
Diflucan 200 mg Q ___ 
Hydroxyzine HCl 25 mg QD PRN 
Ibuprofen 600 mg Q8H PRN
Linzess (linactolide) 145 mcg QD
Ativan 1 mg QD PRN 
Metolazone 2.5 mg QD
Zofran 8 mg PO PRN 
Oxycodone 5 mg PO Q6H PRN 
Potassium chloride 10 % Oral Liquid 30ml PO QID
Propranolol ER 80 mg ER QHS
Spironolactone 100 mg QD
Trimethoprim 100 mg tablet QD
Ambien 10 mg QHS
#14 ___ catheter 
Docusate sodium 100 mg BID
LACTOBACILLUS COMBINATION
 
Discharge Medications:
1. Docusate Sodium (Liquid) 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet by mouth twice a day Disp 
#*60 Capsule Refills:*0
2. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
RX *bisacodyl 5 mg ___ tablet,delayed release (___) by 
mouth constipation Disp #*20 Tablet Refills:*0
3. Metolazone 2.5 mg PO DAILY 
4. NexIUM (esomeprazole magnesium) 40 mg Oral once Duration: 1 
Dose 
5. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
do not drive and drink on this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 6 hrs Disp #*20 
Tablet Refills:*0
6. Propranolol LA 80 mg PO DAILY 
7. Spironolactone 100 mg PO DAILY 
8. Zolpidem Tartrate 5 mg PO HS 
9. Trimethoprim 100 mg PO DAILY 
10. Vivelle (estradiol) 0.075 mg/24 hr Transdermal twice/week 
11. Lorazepam 1 mg PO DAILY:PRN anxiety 
12. Potassium Chloride 40 mEq PO DAILY Duration: 24 Hours 
Hold for K > 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
urinary retention, rectocele

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were admitted to the Gynecology service after your scheduled 
Stage 2 Insterstim placement and posterior colporrhaphy with 
graft for urinary retention and rectocele and enterocele.  You 
tolerated the procedure well. However, after your operation, you 
had a severe allergic reaction, and had to go to the ICU for 
monitoring. Since then, you have recovered well, and we have 
determined that you are in stable condition for discharge. 
Please take your medication and follow-up at your appointments 
as scheduled.

___ instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics. 
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks
* No heavy lifting of objects >10lbs for 6 weeks.    
* You may eat a regular diet  
* or anything that concerns you

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
 
Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* or anything that concerns you

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 

 
Followup Instructions:
___